US04847268
15.0 g (58 mmol) of 8-(4-hydroxyphenylthio)-5,6,7,8-tetrahydroquinoline in 90 ml of ether were added dropwise to a stirred solution of 4.96 g (58 mmol) of sodium nitrate and 0.25 g (58 mmol) of lanthanum nitrate in 60 ml of 5.5N hydrochloric acid at 0° to 5° C. in an ice-bath. Stirring was then continued under nitrogen for 24 hours, after which water was added and the mixture was extracted with chloroform. Removal of solvent left a yellow oil which was purified by flash chromatography (Kieselgel 60; 10% ethyl acetate in dichloromethane) to obtain 5.6 g (20%) of 8-(4-hydroxy-3-nitrophenylthio)-5,6,7,8-tetrahydroquinoline as yellow crystals (from ethanol).

reactant | 8-(4-hydroxyphenylthio)-5,6,7,8-tetrahydroquinoline | 58 mmol, 15.0 g | OC1=CC=C(C=C1)SC1CCCC=2C=CC=NC12 | C15H15NOS
reactant | sodium nitrate | 58 mmol, 4.96 g | [N+](=O)([O-])[O-].[Na+]
reactant | lanthanum nitrate | 58 mmol, 0.25 g | [N+](=O)([O-])[O-].[La+3].[N+](=O)([O-])[O-].[N+](=O)([O-])[O-]
reactant | water | O | H2O
solvent | ether | 90 ml | CCOCC | C4H10O
solvent | hydrochloric acid | 5.5N, 60 ml | Cl | ClH
product | 8-(4-hydroxy-3-nitrophenylthio)-5,6,7,8-tetrahydroquinoline | 5.6 g, 20% | OC1=C(C=C(C=C1)SC1CCCC=2C=CC=NC12)[N+](=O)[O-] | C15H14N2O3S
